US09024014B2
Methyl-Phosphonic Acid n-Butyl Ester C-43 Rapamycin Ester
The resulting clear solution was cooled to 0° C. then added, under an atmosphere of N2, a solution of methylphosphonic dichloride (0.073 g, 0.55 mmol) in 0.33 mL of DCM. The resulting white suspension was stirred to ambient temperature overnight. To a cooled (0° C.) solution of rapamycin (0.1 g, 0.11 mmol) in 0.5 mL of DCM was added a solution of 3,5-lutidine (0.090 g, 0.84 mmol) in 0.5 mL of DCM, followed immediately by the phosphorylating reagent (yellow solution with white precipitate) and a 1.0 mL DCM wash. The resulting yellow solution was stirred at 0° C. for 1.0 h (followed by MS). The cold (0° C.) reaction solution was diluted with ˜20 mL EtOAc then transferred to a separatory funnel containing EtOAc (120 mL) and saturated NaHCO3 (100 mL). Upon removing the aqueous layer, the organic layer was washed successively with ice cold 1N HCl (1×100 mL), saturated NaHCO3 (3×100 mL), and brine (1×100 mL), then dried over MgSO4 and concentrated. The crude product was purified by silica gel flash chromatography (eluted with 0.25:10:3:3 then 0.5:10:3:3 MeOH/DCM/EtOAc/hexane) then RP HPLC (85% MeOH/H2O) to provide 0.063 g of a white solid (˜2:1 diastereomeric mixture): 1H NMR (300 MHz, CDCl3) d 4.15 (m, 1Ha, 1Hb), 4.11-3.89 (m, 3Ha, 3Hb), 3.04 (m, 1Ha, 1Hb); 31P NMR (121 MHz, CDCl3) d 32.1, 29.9; 1071 m/z (M+Na).

reactant | methylphosphonic dichloride | 0.55 mmol, 0.073 g | CP(=O)(Cl)Cl | CH3Cl2OP
reactant | rapamycin | 0.11 mmol, 0.1 g | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | 3,5-lutidine | 0.84 mmol, 0.090 g | N1=CC(=CC(=C1)C)C | C7H9N
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.33 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | ˜20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | Methyl-Phosphonic Acid n-Butyl Ester | 0.063 g | C(CCC)OP(O)(=O)C | C5H13O3P
